US07465731B2
A solution of ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate dihydrochloride (2.0 g) in H2O (10 ml) was adjusted to pH 8.5 With 20% K2CO3 solution and extracted with CHCl3. The extract was dried over MgSO4, the solvent was evaporated in vacuo to give ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate (1.47 g).

reactant | ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate dihydrochloride | 2.0 g | Cl.Cl.ClC=1C=C(C=NC1N[C@H]1CNCC1)/C=C/C(=O)OCC
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 10 ml | O | H2O
product | ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate | 1.47 g | ClC=1C=C(C=NC1N[C@H]1CNCC1)/C=C/C(=O)OCC | C14H18ClN3O2
